US07897595B2
A mixture of 5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol (100 mg, 365 μmol), DMF (50 μl) and POCl3 (5 ml) was heated at 100° C. for 3 h. The reaction mixture was concentrated in vacuo and purified by column chromatography rendering 101 mg (94%) of 2-chloro-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. MS (ESI) m/z 293.2/295.2. A mixture of 2-chloro-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (40.0 mg, 137 μmol), K2CO3 (80.0 mg) and MeOH (5 ml) was heated for 2 h at 70° C. The reaction mixture was concentrated in vacuo and purified by column chromatography furnishing 6.0 mg (22%) of 2-chloro-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ. 1H-NMR (CDCl3) δ 7.48 (d, 1H), 7.91 (d, 1H), 3.58 (s, 3H), 3.55-3.20 (m, 5H), 2.93 (dd, 1H), 2.73 (dd, 1H), 1.43 (d, 3H) ppm.

reactant | 5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol | 365 μmol, 100 mg | CC1C2=C(CCN(C1)C(C(F)(F)F)=O)N=C(C=C2)O | C12H13F3N2O2
reactant | POCl3 | 5 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-chloro-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 137 μmol, 40.0 mg | ClC=1C=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1 | C12H12ClF3N2O
reactant | K2CO3 | 80.0 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | DMF | 50 μl | CN(C)C=O | C3H7NO
product | 2-chloro-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 6.0 mg, 22% | ClC=1C=CC2=C(CCNCC2C)N1 | C10H13ClN2
